* Extracted by KLayout with SG13G2 LVS runset on : 21/03/2026 09:39

.SUBCKT CP 1 2 3 5 7 8 9 10 14
M$1 4 5 5 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$2 6 5 14 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$3 1 8 4 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$4 1 7 6 1 sg13_lv_nmos L=2u W=3u AS=1.02p AD=1.02p PS=6.68u PD=6.68u
M$5 8 10 13 8 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$6 13 9 14 8 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$7 8 1 12 8 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$8 12 9 5 8 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$9 8 1 11 8 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
M$10 11 9 9 8 sg13_lv_pmos L=2u W=10u AS=3.4p AD=3.4p PS=20.68u PD=20.68u
R$19 14 2 rsil w=0.5u l=1000u ps=0 b=0 m=1
R$45 3 14 rsil w=0.5u l=2500u ps=0 b=0 m=1
C$46 3 1 cap_cmim w=40u l=40u A=1600p P=160u m=4
C$47 2 1 cap_cmim w=60u l=60u A=3600p P=240u m=1
C$49 14 1 cap_cmim w=20u l=15u A=300p P=70u m=4
.ENDS CP
